US06320050B1
A solution of 3-cyclopentyl-2-(4-ethanesulfonyl-phenyl)-propionic acid ethyl ester (2.50 g, 7.39 mmol) in tetrahydrofuran (30 mL) was treated with a 0.8M aqueous lithium hydroxide solution (11.1 mL, 8.86 mmol). The reaction mixture was stirred at 25° C. for 23 h. The resulting reaction mixture was partitioned between water (75 mL) and ethyl acetate (75 mL) and then treated with a 1N aqueous hydrochloric acid solution (15 mL). The layers were shaken and separated. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-(4-ethanesulfonyl-phenyl)-propionic acid (2.20 g, 96%) as a white solid which was used without further purification: mp 137-138° C.; FAB-HRMS m/e calcd for C16H22O4S (M+H)+ 311.1317, found 311.1321.

reactant | 3-cyclopentyl-2-(4-ethanesulfonyl-phenyl)-propionic acid ethyl ester | 7.39 mmol, 2.50 g | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)CC)=O | C18H26O4S
reactant | lithium hydroxide | 8.86 mmol, 0.8M, 11.1 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-(4-ethanesulfonyl-phenyl)-propionic acid | 2.20 g, 96% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)CC | C16H22O4S
